US06555557B1
3-Benzyloxy-2-bromopyridine (8 g, 30 mmol) and ethyl 3-hydroxybenzoate (13.3 g, 80 mmol) are dissolved in DMF (50 ml), and thereto are added potassium carbonate (28 g, 0.2 mol) and cuprous bromide (11.5 g, 80 mmol). The mixture is heated under reflux at 140° C. for one hour. After being allowed to cool, the reaction solution is acidified with a 15% aqueous hydrochloric acid solution (50 ml), and then neutralized with a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate (300 ml×2). The organic layer is washed with a saturated brine (200 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate/hexane) to give 3-benzyloxy-2-(3-ethoxycarbonylphenoxy)pyridine as a pale yellow oil.

reactant | 3-Benzyloxy-2-bromopyridine | 30 mmol, 8 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)Br | C12H10BrNO
reactant | ethyl 3-hydroxybenzoate | 80 mmol, 13.3 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-benzyloxy-2-(3-ethoxycarbonylphenoxy)pyridine | C(C1=CC=CC=C1)OC=1C(=NC=CC1)OC1=CC(=CC=C1)C(=O)OCC | C21H19NO4
